US05610141
d) (S,S)-2,7-Bis(9-fluorenylmethyloxycarbonylamino)-E-oct-4-enedioic acid
(S,S)-2,7-Diamino-E-oct-4-enedioic acid dihydrochloride (1.59 g, 5.8 mmol) was suspended in HMDS (20 ml) and TMSCl and refluxed overnight. The solvents were removed, and the residue was dissolved in anhydrous dichloromethane. This solution was cooled to 0° C. and a solution of FmocCl (3.10 g, 12 mmol) in dichloromethane was added. The solution was stirred for 1 hour at this temperature and overnight at ambient temperature. The solvent was evaporated and the residue dissolved in THF. After addition of 1N aqueous HCl the solution was stirred for two hours, extracted with chloroform and dried (MgSO4). The residue was dissolved in dichloromethane and crystallized by the addition of diethylether.

reactant | (S,S)-2,7-Diamino-E-oct-4-enedioic acid dihydrochloride | 5.8 mmol, 1.59 g | Cl.Cl.N[C@H](C(=O)O)C\C=C\C[C@@H](C(=O)O)N
reactant | TMSCl | C[Si](C)(C)Cl | C3H9ClSi
reactant | FmocCl | 12 mmol, 3.10 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | HMDS | 20 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S,S)-2,7-Bis(9-fluorenylmethyloxycarbonylamino)-E-oct-4-enedioic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)C\C=C\C[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C38H34N2O8
